US07947690B2
Sodium hydride and 1-benzylazepan-3-one were added to a THF solution of ethyl diethoxyphosphorylacetate with ice-cooling, and the mixture was stirred at ambient temperature for 2 hours to yield a stereoisomeric mixture of ethyl (1-benzylazepan-3-ylidene)acetate, which was treated with 4M HCl-EtOAc solution, followed by adding EtOH and 10% palladium on activated carbon and stirring under hydrogen atmosphere at ambient temperature for 15 hours to yield ethyl azepan-3-ylacetate hydrochloride.

reactant | Sodium hydride | [H-].[Na+]
reactant | 1-benzylazepan-3-one | C(C1=CC=CC=C1)N1CC(CCCC1)=O | C13H17NO
reactant | ethyl diethoxyphosphorylacetate | C(C)OP(=O)(OCC)CC(=O)OCC | C8H17O5P
reactant | ethyl (1-benzylazepan-3-ylidene)acetate | C(C1=CC=CC=C1)N1CC(CCCC1)=CC(=O)OCC | C17H23NO2
reactant | HCl EtOAc | 4M | Cl.CCOC(=O)C
catalyst | palladium on activated carbon | [Pd] | Pd
solvent | EtOH | CCO | C2H6O
solvent | THF | C1CCOC1 | C4H8O
product | ethyl azepan-3-ylacetate hydrochloride | Cl.N1CC(CCCC1)CC(=O)OCC | InChI=1S/C10H19NO2.ClH/c1-2-13-10(12)7-9-5-3-4-6-11-8-9;/h9,11H,2-8H2,1H3;1H
